US09304394B2
(4-(2-methoxy-2-oxoethyl)naphthalen-1-yl)diphenylsulfonium 1,1-difluoro-2-(methacryloyloxy)ethanesulfonate
(4-(2-methoxy-2-oxoethyl)naphthalen-1-yl)diphenylsulfonium iodide (5 g, 9.76 mmol) and triethylammonium 1,1-difluoro-2-(methacryloyloxy)ethanesulfonate (3.40 g, 10.2 mmol) are dissolved in DCM (200 mL) and water (200 mL) and stirred at 25° C. overnight. The layers are separated, the organic layer washed with water (10×150 mL), and concentrated under reduced pressure to afford the title compound as a white solid.

reactant | (4-(2-methoxy-2-oxoethyl)naphthalen-1-yl)diphenylsulfonium iodide | 9.76 mmol, 5 g | [I-].COC(CC1=CC=C(C2=CC=CC=C12)[S+](C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | triethylammonium 1,1-difluoro-2-(methacryloyloxy)ethanesulfonate | 10.2 mmol, 3.40 g | FC(COC(C(=C)C)=O)(S(=O)(=O)[O-])F.C(C)[NH+](CC)CC
reactant | water | 200 mL | O | H2O
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (4-(2-methoxy-2-oxoethyl)naphthalen-1-yl)diphenylsulfonium 1,1-difluoro-2-(methacryloyloxy)ethanesulfonate | FC(COC(C(=C)C)=O)(S(=O)(=O)[O-])F.COC(CC1=CC=C(C2=CC=CC=C12)[S+](C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C25H21O2S.C6H8F2O5S/c1-27-25(26)18-19-16-17-24(23-15-9-8-14-22(19)23)28(20-10-4-2-5-11-20)21-12-6-3-7-13-21;1-4(2)5(9)13-3-6(7,8)14(10,11)12/h2-17H,18H2,1H3;1,3H2,2H3,(H,10,11,12)/q+1;/p-1
